US07235559B1
Triphosgene (5.63 g, 19 mmol) was added to an ice cold solution of 3-chlorobenzoic acid (17.76 g, 114 mmol) and triethylamine (16 ml, 114 mmol) in ethyl acetate (250 ml). The reaction was stirred for 15 min then 1 hour at ambient temperature. The mixture was filtered to remove triethylamine hydrochloride then concentrated in vacuo. Diphenyl ether (16 g) and 2-amino-5-nitropyrimidine (4 g, 28.6 mmol) were added, mixed and heated 20 hours at 150° C. The mixture was cooled and diluted with diethylether (100 ml). Collected of the solid by suction filtration yielded, 2-(N-3-chlorobenzoyl)amino-5-nitropyrimidine (7.94 g, 100% yield) as a beige solid:

reactant | Triphosgene | 19 mmol, 5.63 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-chlorobenzoic acid | 114 mmol, 17.76 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | triethylamine | 114 mmol, 16 ml | C(C)N(CC)CC | C6H15N
reactant | Diphenyl ether | 16 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | 2-amino-5-nitropyrimidine | 28.6 mmol, 4 g | NC1=NC=C(C=N1)[N+](=O)[O-] | C4H4N4O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 2-(N-3-chlorobenzoyl)amino-5-nitropyrimidine | 7.94 g, 100% yield | ClC=1C=C(C(=O)NC2=NC=C(C=N2)[N+](=O)[O-])C=CC1 | C11H7ClN4O3
